US09334269B2
To 4-(2-methanesulfonyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (2.6 g, 7.3 mmol) was added HCl in dioxane solution (4M) (15 mL). The reaction mixture was stirred at RT for 5 h. After completion of the reaction (monitored by TLC), the excess dioxane was removed in vacuo affording an off white solid. The crude material was washed with diethyl ether (3×20 mL) to afford 4-(2-(methylsulfonyl)phenoxy)piperidine hydrochloride (1.3 g, 80.7%).

reactant | 4-(2-methanesulfonyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 7.3 mmol, 2.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=CC=C1)S(=O)(=O)C | C17H25NO5S
reactant | HCl | Cl | ClH
solvent | dioxane | 4M, 15 mL | O1CCOCC1 | C4H8O2
product | 4-(2-(methylsulfonyl)phenoxy)piperidine hydrochloride | 1.3 g, 80.7% | Cl.CS(=O)(=O)C1=C(OC2CCNCC2)C=CC=C1 | InChI=1S/C12H17NO3S.ClH/c1-17(14,15)12-5-3-2-4-11(12)16-10-6-8-13-9-7-10;/h2-5,10,13H,6-9H2,1H3;1H
